US08455475B2
tert-Butyl 9-(2-(methylsulfonyloxy)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate
Methanesulfonyl chloride (5.43 mmol, 2.0 eq.) was added dropwise to a stirred solution of tert-butyl 9-(2-hydroxyethoxy)-3-azaspiro[5.5]undecane-3-carboxylate (2.71 mmol, 1.0 eq.) and Et3N (9.485 mmol, 3.5 eq.) in MC (30 ml) at 0° C. and the resulting reaction mixture was stirred at 25° C. for 3 h. The reaction mixture was diluted with MC (150 ml), washed with water (100 ml) and brine (100 ml) and dried over sodium sulfate. The solvent was evaporated under reduce pressure to give the crude product as a yellow sticky solid which was used in the next step reaction without further purification. Yield: 99%

reactant | Methanesulfonyl chloride | 5.43 mmol, 2.0 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl 9-(2-hydroxyethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | 2.71 mmol, 1.0 eq. | OCCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C17H31NO4
reactant | Et3N | 9.485 mmol, 3.5 eq. | CCN(CC)CC | C6H15N
product | tert-Butyl 9-(2-(methylsulfonyloxy)ethoxy)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 99% | CS(=O)(=O)OCCOC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H33NO6S
